US05589474
(b) 3-Trifluoromethyl-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione-5,5-dioxide
Phosphorus pentasulphide (1 g) was added to a solution of 3-trifluoromethyl-9,10-dihydrodibenzo [b,f][1,4]thiazepin-11-one-5,5dioxide (1 g, 3 mmol) in pyridine (20 ml) and heated under reflux for 6.5 hr. A further 500 mg of phosphorus pentasulphide was added and the mixture heated for a further 6 hr before being allowed to cool overnight. The mixture was added to hot water (100 ml) with stirring. Filtration of the cooled mixture and recrystallisation from ethanol gave the title compound as a yellow solid (650 mg, m.p. 275°-278° C., Rf 0.4, hexane/EtOAc 2:1).

reactant | Phosphorus pentasulphide | 1 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 3-trifluoromethyl-9,10-dihydrodibenzo [b,f][1,4]thiazepin-11-one-5,5dioxide | 3 mmol, 1 g | FC(C1=CC2=C(C(NC3=C(S2(=O)=O)C=CCC3)=O)C=C1)(F)F | C14H10F3NO3S
reactant | phosphorus pentasulphide | 500 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | 100 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-Trifluoromethyl-10,11-dihydrodibenzo[b,f][1,4]thiazepin-11-thione-5,5-dioxide | 650 mg | FC(C1=CC2=C(C(NC3=C(S2(=O)=O)C=CC=C3)=S)C=C1)(F)F | C14H8F3NO2S2
